### PR TITLE
[Merged by Bors] - feat(DirichletCharacter): any element of the `conductorSet` is divisible by the conductor 

### PR DESCRIPTION
**Pull request by xroblot**
Prove the following result:
For `χ` a Dirichlet character and `d ∈ χ.conductorSet`, we have `χ.conductor ∣ d`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -144,6 +144,35 @@ lemma factorsThrough_iff_ker_unitsMap {d : ℕ} [NeZero n] (hd : d ∣ n) :
     simp_rw [changeLevel_toUnitHom, toUnitHom_eq, ofUnitHom_eq, Equiv.apply_symm_apply, hE,
       toUnitHom_eq]
 
+/--
+Let `χ` and `ψ` be Dirichlet characters of level `n` and `m` respectively. Assume that they agree
+at level `n * m`. Then `χ` factors through `gcd(n, m)`.
+-/
+theorem FactorsThrough_gcd {m : ℕ} [NeZero n] (ψ : DirichletCharacter R m)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```suggestion
theorem factorsThrough_gcd {m : ℕ} [NeZero n] (ψ : DirichletCharacter R m)
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -266,6 +302,29 @@ lemma primitiveCharacter_one (hn : n ≠ 0) :
...
+    exact hd ▸ zero_ne_mem_conductorSet χ hn⟩
+  suffices d.gcd χ.conductor ∈ χ.conductorSet by
+    have : χ.conductor ≤ d.gcd χ.conductor := Nat.sInf_le this
+    contrapose! this
+    refine Nat.lt_of_le_of_ne ?_ (Nat.gcd_eq_right_iff_dvd.not.mpr this)
+    exact Nat.gcd_le_right _ <| Nat.pos_of_ne_zero <| conductor_ne_zero χ hn
+  obtain ⟨hd, χ₀, hχ₀⟩ := hd
+  suffices (changeLevel (d.dvd_mul_right χ.conductor)) χ₀ =
+      (changeLevel (χ.conductor.dvd_mul_left d)) χ.primitiveCharacter by
+    obtain ⟨_, χ₁, hχ₁⟩ := FactorsThrough_gcd χ₀ χ.primitiveCharacter this
```
Comment (jcommelin) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```suggestion
    obtain ⟨_, χ₁, hχ₁⟩ := factorsThrough_gcd χ₀ χ.primitiveCharacter this
```

**Review by jcommelin — COMMENTED** [review]
bors d+
